US04897490
3,3-Bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenol
To a stirred solution of 3 g (5 mmol) ethyl 3,3-bis(4-fluorophenyl)-2-[2-triphenylmethyl-2H-tetrazol-5-yl]-2-propenoate in 50 mL of methylene chloride at -70° C., 10 mL (15 mmol) diisobutylaluminium hydride solution (1.5M in methylene chloride) was added and the solution stirred for 3 hours. The reaction was quenched with water and the mixture extracted with methylene chloride. The combined organic fractions were dried with magnesium sulfate and concentrated in vacuo to give 2.1 g of the title compound; m.p.=176°-178° C.

reactant | ethyl 3,3-bis(4-fluorophenyl)-2-[2-triphenylmethyl-2H-tetrazol-5-yl]-2-propenoate | 5 mmol, 3 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C37H28F2N4O2
reactant | diisobutylaluminium hydride | 15 mmol, 1.5M, 10 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenol | 2.1 g | FC1=CC=C(C=C1)C(=C(CO)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C35H26F2N4O
